US04021432
A solution of 17.10 parts of 1,2,2,6,6-pentamethylpiperidin-4-ol in 50 parts of dry benzene was stirred at 15°-20° C. whilst adding 6.0 parts of sebacoyl chloride dropwise over 15 minutes. The mixture was stirred for a further 12 hours at room temperature after which the 1,2,2,6,6-pentamethylpiperidin-4-ol hydrochloride formed during the reaction was filtered off. The benzene was removed by distillation under reduced pressure to give a yellow oil, which was distilled under reduced pressure to give bis-(1,2,2,6,6-pentamethyl-4-piperidinyl)sebacate as a colourless oil having a boiling point of 218°-20° C. at 0.4 mm of Hg and the following elemental analysis by weight:

reactant | 1,2,2,6,6-pentamethylpiperidin-4-ol | CN1C(CC(CC1(C)C)O)(C)C | C10H21NO
reactant | sebacoyl chloride | C(CCCCCCCCC(=O)Cl)(=O)Cl | C10H16Cl2O2
reactant | 1,2,2,6,6-pentamethylpiperidin-4-ol hydrochloride | Cl.CN1C(CC(CC1(C)C)O)(C)C
solvent | benzene | C1=CC=CC=C1 | C6H6
product | bis-(1,2,2,6,6-pentamethyl-4-piperidinyl)sebacate | CN1C(CC(CC1(C)C)OC(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)C)(C)C)=O)(C)C | C30H56N2O4
